US04491547
To a stirred and ice cooled solution of p-methoxybenzyl alcohol (1.2 equivalents) in dichloromethane (5 parts by weight) is added dropwise difluoromethylthioacetyl chloride, and the mixture is stirred for 4 hours. The mixture is washed with water, dried and concentrated. The residual liquid is distilled to give oily p-methoxybenzyl difluoromethylthioacetate. Yield: 80.4%.

reactant | p-methoxybenzyl alcohol | 1.2 equivalents | COC=1C=CC(=CC1)CO | C8H10O2
reactant | difluoromethylthioacetyl chloride | FC(F)CC(=S)Cl | C3H3ClF2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | p-methoxybenzyl difluoromethylthioacetate | Yield: 80.4% | FC(F)CC(=S)OCC1=CC=C(C=C1)OC | C11H12F2O2S
